US08541418B2
Synthesis of 2-(1H-imidazol-2-yl)thiazole (Imidazole 2)
A 2.5 M solution of nBuLi (2.0 eq) in hexane was added under argon to a solution of 2,2-dimethoxyethanamine (2.0 eq) in THF at −78° C. After stirring for 30 min, thiazole-2-carbonitrile (2-Im-2, 3.0 g, 1.0 eq) was added and the resulting solution was stirred at 0° C. for 2 h, then quenched with 20 mL of 5% MeOH in water. The volatiles were removed and 6N HCl was added to adjust to pH=1. The acidic solution was refluxed overnight, cooled to rt then poured into a mixture of ice and aqueous Na2CO3. This was extracted with EtOAc and the organic layer was concentrated to give Imadazole 2. LCMS (0.01% Ammonia): 152.1 m/z (M+H)+; 1H-NMR (DMSO-d6, 500 MHz): δ: 13.19 (bs, 1H), 7.98 (d, 1H, J=3.0 Hz), 7.82 (d, 1H, J=3.0 Hz), 7.36 (s, 1H), 7.14 (s, 1H).

reactant | nBuLi | 2.0 eq | [Li]CCCC
reactant | 2,2-dimethoxyethanamine | 2.0 eq | COC(CN)OC | C4H11NO2
reactant | thiazole-2-carbonitrile | 3.0 g, 1.0 eq | S1C(=NC=C1)C#N | C4H2N2S
reactant | Ammonia | N | H3N
solvent | hexane | CCCCCC | C6H14
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1H-imidazol-2-yl)thiazole | N1C(=NC=C1)C=1SC=CN1 | C6H5N3S
